US08809525B2
3-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)benzonitrile (20 mg, 25%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (75 mg, 0.299 mmol) and 3-cyanophenylboronic acid (50.5 mg, 0.344 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.299 mmol, 75 mg | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-cyanophenylboronic acid | 0.344 mmol, 50.5 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)benzonitrile | 20 mg, 25% | NC=1N=NC(=C(N1)C1=CC=CC=C1)C=1C=C(C#N)C=CC1 | C16H11N5
